### PR TITLE
Add definitions of r blades and multivectors

### PR DESCRIPTION
**Pull request by eric-wieser**
Notably, this:

* Defines the set of `r`-blades, `Bᵣ r`, as things equal to a product of a scalar and orthogonal vectors and:
  * shows `mul_action G₀ (Bᵣ r)` - scalar multiples of an r-blade are an r-blade
  * shows `has_neg (Bᵣ r)` - negated r-blades are r-blades
* Defines the set of `r`-vectors, `Gᵣ r`, as a sum of  `Bᵣ r` and shows:
  * shows `add_comm_group (Gᵣ r)` - addition is commutative, `Gᵣ` is closed under it
  * shows `semimodule G₀ (Gᵣ r)` - `Gᵣ` behaves like a vector space
* Defines the set of multivectors with grades up to `r`, `Mᵣ r`, and shows:
  * shows `add_comm_group (Mᵣ r)` - addition is commutative, `Mᵣ` is closed under it
  * _states_ `semimodule G₀ (Mᵣ r)` - `Mᵣ` behaves like a vector space

### CODE REVIEW

File: src/geometric_algebra/nursery/chisolm.lean [hunk 1]
```diff
@@ -69,12 +82,102 @@ local infix `*₊`:75 := sym_prod
...
+  variables {r : ℕ}
+  instance addgroup : add_comm_group (Gᵣ r) := (Gᵣ r).to_add_comm_group
+end Gᵣ
+
+-- multi-vectors
+def Mᵣ (r : ℕ) := add_subgroup.closure (⋃ (r : ℕ), (Gᵣ r).carrier)
+namespace Mᵣ
+  variables {r : ℕ}
+  instance addgroup : add_comm_group (Mᵣ r) := (Mᵣ r).to_add_comm_group
+end Mᵣ
```
Comment (eric-wieser) [inline src/geometric_algebra/nursery/chisolm.lean]: I don't know how easy these will be to, say, show properties of multiplication on, but at least they were trivial to define

Comment (eric-wieser) [reply src/geometric_algebra/nursery/chisolm.lean]: I suspect the `to_add_comm_group` might already be inferred by lean.

File: src/geometric_algebra/nursery/chisolm.lean [hunk 2]
```diff
@@ -96,15 +233,21 @@ exists.elim (vec_sq_scalar (a + b))
...
-        rw h1,
-        abel,
+        have h2 : (fₛ (kab - ka - kb : G₀) : G) = sym_prod_vec a b, by {
+          repeat {rw ring_hom.map_sub},
+          rw h1,
+          abel,
+        },
+        rw ← h2,
+        rw is_scalar,
+        apply Bᵣ.all_G₀_is_rblade0, -- this feels clumsy, can I make this automatic?
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:274]: If you want something to be automatic, just mark the lemma as simp lemma and call simp here, but we need to check if this should fall into that category

File: src/geometric_algebra/nursery/chisolm.lean [hunk 3]
```diff
@@ -69,12 +82,136 @@ local infix `*₊`:75 := sym_prod
...
+--   unfold vector.repeat subtype.val,
+--   apply pairwise_of_repeat,
+--   apply zero_is_orthogonal,
+-- end⟩
+
+
+-- r-blades
+def is_rblade (r : ℕ) (b : G) : Prop :=
+  -- a product of orthogonal vectors an a scalar
+  (∃ (k: G₀) (v : pairwise_ortho_vector r),
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:110]: I was thinking about changing the definition from exists a k to directly say the square of vectors equals the quadratic form. It's always better to say what it is rather than it exists. Although I'm sure about how it extends to other definitions...

File: src/geometric_algebra/nursery/chisolm.lean [hunk 4]
```diff
@@ -69,12 +82,136 @@ local infix `*₊`:75 := sym_prod
 
 local infix `*₊ᵥ`:75 := sym_prod_vec
 
+
+def is_orthogonal (a : G₁) (b : G₁) : Prop := sym_prod_vec a b = 0
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:86]: Actually later I'll abandon this sym_prod_vec (which is without the factor of 1/2) and use the ordinary inner product.

File: src/geometric_algebra/nursery/chisolm.lean [hunk 5]
```diff
@@ -69,12 +82,136 @@ local infix `*₊`:75 := sym_prod
...
+
+  instance has_coe_from_G₀ : has_coe G₀ (Bᵣ 0) := { coe := λ k, ⟨fₛ k, all_G₀_is_rblade0 k⟩}
+  instance has_coe_from_G₁ : has_coe G₁ (Bᵣ 1) := { coe := λ a, ⟨fᵥ a, all_G₁_is_rblade1 a⟩}
+
+  -- these are trivial, but maybe still needed
+  instance has_coe_to_G : has_coe (Bᵣ r) G := { coe := subtype.val }
+  @[simp]
+  lemma coe_is_rblade (b : Bᵣ r) : is_rblade r b := b.property
+
+  /- todo: do we want this? -/
```
Comment (utensil) [inline src/geometric_algebra/nursery/chisolm.lean:140]: The purpose would be that we want to show it's an algebra structure, and it naturally appears in the process and later we would only use that it's that algebra structure, without using that it has zero.

Comment (eric-wieser) [reply src/geometric_algebra/nursery/chisolm.lean:140]: My comment was more learning toward the question "is 0 an r-blade"? Should my definition forbid it?

File: src/geometric_algebra/nursery/chisolm.lean (hunk 2 above)
Comment (eric-wieser) [reply src/geometric_algebra/nursery/chisolm.lean:274]: I think I found that didn't work.

File: src/geometric_algebra/nursery/chisolm.lean (hunk 5 above)
Comment (utensil) [reply src/geometric_algebra/nursery/chisolm.lean:140]: It's the same. r-blade is an algebraic structure itself.

Also, all r-baldes can has_zero, they're all 0 but in different types.

The more difficult question is equality crossing types.

File: src/geometric_algebra/nursery/chisolm.lean (hunk 3 above)
Comment (eric-wieser) [reply src/geometric_algebra/nursery/chisolm.lean:110]: For grades greater than 1, there is no unique factorization. If possible, I'd rather prove the unique factorization of 0 and 1 blades rather than assume it.

File: src/geometric_algebra/nursery/chisolm.lean (hunk 5 above)
Comment (eric-wieser) [reply src/geometric_algebra/nursery/chisolm.lean:140]: > Also, all r-blades can has_zero, they're all 0 but in different types.

I was thinking of a definition like _"a r-blade is either a scalar, or a product of r non-zero orthogonal vectors"_.

Either way, I didn't need this to show that `Gr` had a zero.

**Review by utensil — APPROVED** [review]
